Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Low transverse cesarean section
Post partum hemorrhage
Chorioamnionitis
 
Major Surgical or Invasive Procedure:
repeat cesarean section

 
History of Present Illness:
Ms. ___ is a ___ G2 P1,  at 38 weeks with a history 
of prior low transverse cesarean section. She desired  trial of 
labor.
 
Past Medical History:
Neg for hypertension, diabetes, liver renal or thyroid disease.

Surg Hx: LTCS x 1
 
Social History:
NO tobacco, alcohol or drug use.
 
Physical Exam:
On admission:

Gen: A&O, comfortable
CV: RRR
PULM: normal work of breathing
Abd: soft, gravid, nontender
Ext: no calf tenderness

On discharge:

None this am as yet.
Well appearing in bed
Abdomen: soft, nondistended, mild tenderness consistent with 
post
op
Incision intact, dry no erythema, no induration.
Ex nontender bilaterally.
 
Pertinent Results:
___ 10:21AM BLOOD 
- WBC-11.2* RBC-2.65* Hgb-8.0* Hct-24.3* MCV-92 Plt ___
___ 05:20PM BLOOD
- WBC-13.2* RBC-2.28* Hgb-7.1* Hct-21.5* MCV-94 Plt ___
___ 04:54AM BLOOD 
- WBC-16.2* RBC-2.93* Hgb-9.1* Hct-27.4* MCV-94 Plt ___
___ 01:13AM BLOOD 
- WBC-17.0* RBC-2.37* Hgb-7.2* Hct-22.7* MCV-96 Plt ___
___ 02:20AM BLOOD 
- WBC-9.2 RBC-3.62* Hgb-11.1* Hct-33.1* MCV-91 Plt ___

___ 04:54AM BLOOD UreaN-14 Creat-1.0
 
Brief Hospital Course:
Ms. ___ is a ___ G2P1, who arrived
to Labor and Delivery in active labor.  She was found to be 4
to 5 cm dilated and received an epidural.  She ruptured
membranes spontaneously and was unchanged over two exams, and
received pitocin to augment her labor.  She
progressed to fully dilated and pushed in the second stage of
labor for over three hours with minimal descent of the fetal
vertex. She developed chorioamnionitis with fetal tachycardia 
and a fever during
labor and was started on antibiotics for chorioamnionitis. 
Given arrest of descent in the second stage of labor, the
a repeat cesarean section was recommended and performed.
 Her post operative course and delivery was complicated by post 
partum hemorrhage.

Regarding her postpartum hemorrhage, estimated blood loss was 
1000cc.  Pre-operatively her hematocrit was 33.1 and on POD #1 
her hematocrit was 22.7. She was thus transfused 2 units of 
packed red blood cells, with a post transfusion, was 27.4. On 
POD #2, patient noted to be tachycardic with a heart rate in the 
low 100s. Her hct was repeated and was found to 21.5. She thus 
received another transfusion of 2 units of packed red blood 
cells, with a followup hematocrit of 24.3. Patient was 
asymptomatic and vital signs were stable. 

Regarding her chorioamnionitis, patient was placed on 
ampicillin, gentamicin, clindamycin for 24 hours post partum and 
remained afebrile, with anormal post operative exam.  

Post operatively, her pain was treated with oral pain 
medications. She ambulated and her foley was discontinued and 
she voided spontaneously, with no complications. Her diet was 
advanced without incident. By postpartum day 4, she was 
tolerating a regular diet, ambulating independently, and pain 
was controlled with oral medications. She was afebrile with 
stable vital signs. She was then discharged home in stable 
condition with postpartum outpatient follow-up scheduled.

 
Medications on Admission:
PNV
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 4 hours 
Disp #*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth every 12 hours 
Disp #*40 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
take 1 tab for moderate pain and 2 tab for severe pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*12 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Repeat cesarean section
Anemia due to surgical bleeding
requiring tranfusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
See postpartum packet
 
Followup Instructions:
___